* C:\Users\Ignacio\Documents\cubesat\Electronics\PMS\SIM\Prueba Desconexion Bateria.asc
* Generated by LTspice 24.1.7 for Windows.
V1 +VBAT 0 19
V2 +VEXT 0 PULSE(0 19.5 1 1u 1u 1 2)
M1 +VSYS G +VBAT +VBAT IRF9640
D1 +VEXT +VSYS SS24
X§U1 +VEXT N001 +VBAT 0 G NC_01 NC_02 LT1008
R1 +VBAT N001 1k
R2 N001 0 4k7
R3 +VEXT 0 10K
I1 +VSYS 0 2
.model D D
.lib C:\Users\Ignacio\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Ignacio\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 2 uic
.lib LTC.lib
.backanno
.end
